US09062023B2
(a) 5-bromo-N-(4-((4-methylpiperidin-1-yl)methyl)phenyl)nicotinamide
DIEA (473 μL, 2.72 mmol) was added into a solution of 5-bromonicotinic acid (178 mg, 0.881 mmol), 4-((4-methylpiperidin-1-yl)methyl)benzenamine (150 mg, 0.734 mmol), BOP (487 mg, 1.10 mmol) in DMF (3 mL). The reaction mixture is stirred at rt under argon atmosphere overnight. The reaction mixture was diluted with 80 mL of AcOEt, and then washed with 1N NaOH aqueous solution three times. Organic phase was dried with anhydrous Na2SO4, and then evaporated to remove organic solvents. The obtained residue was further dried under high vacuum overnight to give crude product, which was used directly for the next step synthesis without further purification. MS (ESI+) m/z 388.1 [M+H]+.

reactant | DIEA | 2.72 mmol, 473 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-bromonicotinic acid | 0.881 mmol, 178 mg | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 4-((4-methylpiperidin-1-yl)methyl)benzenamine | 0.734 mmol, 150 mg | CC1CCN(CC1)CC1=CC=C(C=C1)N | C13H20N2
reactant | BOP | 1.10 mmol, 487 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 80 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-N-(4-((4-methylpiperidin-1-yl)methyl)phenyl)nicotinamide | BrC=1C=NC=C(C(=O)NC2=CC=C(C=C2)CN2CCC(CC2)C)C1 | C19H22BrN3O
